US07888349B2
Triethylamine (58.9 mL, 422.4 mmol, 1.5 eq) and tert-butyl N-(2-aminoethyl) carbamate (54.1 g, 337.9 mmol, 1.2 eq) were added sequentially to a solution of 7-benzyloxy-4-chloro-3-nitroquinoline (88.63 g, 281.6 mmol) in DMF (800 mL) and stirred for 4 hours at ambient temperature. The crude reaction mixture was poured into hot water with continuous stirring to afford bright a yellow precipitate. The yellow solid was filtered and dried under reduced pressure at 65° C. to afford 123.65 g of tert-butyl 2-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]ethylcarbamate.

reactant | Triethylamine | 422.4 mmol, 58.9 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | tert-butyl N-(2-aminoethyl) carbamate | 337.9 mmol, 54.1 g, 1.2 eq | CC(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | 281.6 mmol, 88.63 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | water | O | H2O
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]ethylcarbamate | 123.65 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCNC(OC(C)(C)C)=O | C23H26N4O5
